US04301287
(c) 1-Methoxycarbonyl-3-oxopiperidine-4-carbohydroxamic acid ethylene acetal (IXa)
To a stirred and iced solution of potassium hydroxide (7.3 g; 130 mmol) in methanol (30 ml) was added hydroxylammonium chloride (6.9 g; 100 mmol). After stirring at 0° C. for further 30 minutes a solution of ethyl 1-methoxycarbonyl-3-oxopiperidine-4-carboxylate ethylene acetal (6.8 g; 25 mmol) in methanol (20 ml) was added, and the mixture was left at 8° C. for 8 days. Upon addition of glacial acetic acid (15 ml) and filtration the filtrate was evaporated in vacuo to give a treacly mass. CC [silica gel (Woelm 0.063-0.1 mm): 250 g; eluents: ethyl acetate to which methanol (15-26%) and formic acid (1%) was added] afforded IXa (1.9 g; 29%) as a crystalline and TLC-pure substance [RF : 0.23; eluent: ethyl acetate-methanol-formic acid (90:9:1)]. An analytical sample was recrystallized (ethanol-benzene) to give IXa as colourless crystals, m.p. 150.0°-152.0° C. IR (KBr): 3700-3350 (m), 3280 (m), 3210 (s), 3055 (w), 3000-2870 (several bands, w-m), 1690 (s), 1640 (s), 1550 (w) cm-1. 1H NMR [CDCl3 -DMSO-d6 (1:1): δ10.5-10.1 (1 H, m), 4.9-4.3 (1 H, m), 3.93 (s), 3.60 (s), and 4.1-3.1 (m) (a total of 11 H), 2.8-2.6 (1 H, m), 2.2-1.8 (2 H, m).

reactant | potassium hydroxide | 130 mmol, 7.3 g | [OH-].[K+]
reactant | hydroxylammonium chloride | 100 mmol, 6.9 g | [Cl-].O[NH3+]
reactant | ethyl 1-methoxycarbonyl-3-oxopiperidine-4-carboxylate ethylene acetal | 25 mmol, 6.8 g | C1COC(OCC)(C2C(CN(CC2)C(=O)OC)=O)O1 | C12H19NO6
reactant | KBr | [K+].[Br-]
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | ethyl acetate methanol formic acid | C(C)(=O)OCC.CO.C(=O)O
solvent | formic acid | C(=O)O | CH2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 1-Methoxycarbonyl-3-oxopiperidine-4-carbohydroxamic acid ethylene acetal | C1COC(NO)(C2C(CN(CC2)C(=O)OC)=O)O1 | C10H16N2O6
